US08912188B2
To a solution of 5-fluorobenzofuran-2-ylboronic acid (258.0 mg, 1.43 mmol) in dioxane (5.5 mL) was added ethyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (140.0 mg, 0.48 mmol), K3PO4 (302.0 mg, 1.43 mmol) and Pd(PPh3)4 (27.5 mg, 0.02 mmol) and water (3 drops) with stirring for 1 h at 90° C. in an oil bath maintained with an inert atmosphere of nitrogen. The reaction mixture was concentrated under vacuum to give a residue, which was purified by a silica gel column with 1% ethyl acetate in petroleum ether to afford methyl 2-(5-fluorobenzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate as a light yellow solid (160.0 mg, 81%).

reactant | 5-fluorobenzofuran-2-ylboronic acid | 1.43 mmol, 258.0 mg | FC=1C=CC2=C(C=C(O2)B(O)O)C1 | C8H6BFO3
reactant | ethyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.48 mmol, 140.0 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OCC | C15H18ClN3O2
reactant | K3PO4 | 1.43 mmol, 302.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5.5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 27.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(5-fluorobenzofuran-2-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 160.0 mg, 81% | FC=1C=CC2=C(C=C(O2)C2=NC3=CC=C(C=C3N=C2N(C)C(C)C)C(=O)OC)C1 | C22H20FN3O3
